### ISSUE TITLE
Proof obligation for `Lift.symm` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#78]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**🤖 AI Analysis:**
This is a great example of a fundamental property in relational program logics. Here's a detailed comment to help you complete the proof.

```markdown
### Statement Explanation

The theorem `Lift.symm` establishes a symmetry property for the relational lifting predicate `Lift`. It states that if a probability mass function `p` can be "lifted" with respect to another PMF `q` and a relation `R`, then `q` can also be lifted with respect to `p` and the inverse or "swapped" relation `Prod.swap ⁻¹' R`.

In more detail:
- `Lift p R q` means there exists a joint distribution (a coupling) `c` on pairs `(a, b)` whose marginals are `p` and `q`, and crucially, any pair `(a, b)` that can be sampled (i.e., has non-zero probability) must satisfy the relation `R`.
- `Prod.swap ⁻¹' R` is the set of all pairs `(b, a)` such that the swapped pair `(a, b)` is in `R`.
- The theorem asserts that if such a coupling for `(p, q, R)` exists, we can construct a new coupling for `(q, p, Prod.swap ⁻¹' R)`.

### Context

This theorem is part of a larger API for `PMF.Lift`, designed for reasoning about probabilistic programs relationally. Such APIs are foundational for tools like PRHL (Probabilistic Relational Hoare Logic). `Lift.symm` is analogous to a symmetry rule in a logic, allowing one to swap the order of the programs being compared, provided the relation is also suitably inverted.

The proof skeleton correctly identifies that the new coupling should be `c.map Prod.swap`, which simply swaps the components of the output of the original coupling `c`. The proof relies on a corresponding lemma `IsCoupling.symm`, which states that this mapping operation correctly swaps the marginals. The remaining obligation is to show that this new coupling supports the swapped relation.

### Proof Suggestion

The goal is to prove `IsCoupling.supports (c.map Prod.swap) (Prod.swap ⁻¹' R)`.

1.  **Unfold the goal**: The definition of `IsCoupling.supports` requires you to show that for any pair `y : β × α`, if `(c.map Prod.swap) y ≠ 0`, then `y ∈ Prod.swap ⁻¹' R`.
2.  **Simplify the conclusion**: The condition `y ∈ Prod.swap ⁻¹' R` is equivalent to `Prod.swap y ∈ R` by definition of the preimage (`Set.mem_preimage`). You can use `simp` or `rw [Set.mem_preimage]` for this.
3.  **Relate the mapped probability to the original**: The core of the proof is to connect the hypothesis `(c.map Prod.swap) y ≠ 0` back to the original coupling `c`. Since `Prod.swap` is a bijection (specifically, it's injective), the probability mass of `c.map Prod.swap` at `y` is simply the probability mass of `c` at `Prod.swap y`. The lemma `PMF.map_apply_of_injective` is perfect for this. You'll need to provide the fact that `Prod.swap` is injective, which is `Prod.swap_injective`.
    - `rw [PMF.map_apply_of_injective c Prod.swap_injective y] at hy` will transform `hy` into `c (Prod.swap y) ≠ 0`.
4.  **Use the support hypothesis**: You have the hypothesis `hsupp : IsCoupling.supports c R`, which states `∀ x, c x ≠ 0 → x ∈ R`.
5.  **Conclude the proof**: Apply `hsupp` to the fact `c (Prod.swap y) ≠ 0`. This will yield `Prod.swap y ∈ R`, which is exactly what you need to prove.

Here is a sketch of the tactics:
```lean
  intro y hy
  -- The goal is `y ∈ Prod.swap ⁻¹' R`, which is `Prod.swap y ∈ R`
  rw [Set.mem_preimage]
  -- Use injectivity of swap to relate the mapped probability to the original
  rw [PMF.map_apply_of_injective c Prod.swap_injective y] at hy
  -- Now apply the support hypothesis from the original lifting
  exact hsupp (Prod.swap y) hy
```
```

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L177)

**Code Snippet:**
```lean
theorem Lift.symm {p : PMF α} {q : PMF β} {R : Set (α × β)}
    (hpq : Lift p R q) : Lift q (Prod.swap ⁻¹' R) p := by
  rcases hpq with ⟨c, hc, hsupp⟩
  refine ⟨_, (IsCoupling.symm hc), ?_⟩
  intro y hy
  -- If `(b,a)` has nonzero mass under `c.map swap`, then `(a,b)` has nonzero mass under `c`.
  -- Transport membership through `swap`.
  sorry

```
